US08003692B2
3-(1H-Indol-5-yl)-2-methyl-cyclopent-2-enone.
Synthesized from 3-bromo-2-methylcyclopent-2-enone and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography using gradient elution (0 to 100% ethyl acetate/hexanes) and further recrystallization yielded the product (138 mg, 92%) as pale yellow solid. 1H NMR (CDCl3, 300 MHz): δ 7.86 (s, 1H), 7.47-7.39 (m, 2H), 7.27 (t, J=3.0 Hz, 1H), 6.62 (t, J=2.1 Hz, 1H), 3.02-2.97 (m, 2H), 2.57-2.54 (m, 2H), 2.05 (t, 3H, J=1.8). 13C NMR (CDCl3, 75 MHz): δ 210.0, 168.3, 136.2, 134.5, 128.2, 127.8, 125.3, 121.9, 120.6, 111.1, 103.4, 34.2, 29.7, 10.5. LCMS (ESI): mass calcd for (C14H13NO) m/z 211.10; measured [M+H]+: m/z 212.03.

reactant | 3-bromo-2-methylcyclopent-2-enone | BrC1=C(C(CC1)=O)C | C6H7BrO
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | CC1(OB(OC1(C)C)C=1C=C2C=CNC2=CC1)C | C14H18BNO2
product | 3-(1H-Indol-5-yl)-2-methyl-cyclopent-2-enone | 138 mg, 92% | N1C=CC2=CC(=CC=C12)C1=C(C(CC1)=O)C | C14H13NO
